US07598255B2
2-Benzyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride
To a solution of 2,7-dibenzyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride in EtOH was added 10% Pd/C (1 equiv) followed by 1,4-cyclohexadiene (5 equiv). The mixture was heated at 85° C. for 5 h, filtered and concentrated. The residue was dissolved in CH2Cl2 and treated with Dowex 550A resin. After 1 h, the resin was removed by filtration and the filtrate was concentrated. Chromatography on SiO2 (2 M NH3 in MeOH/CH2Cl2) afforded the title compound. MS (ESI): exact mass calcd. for C20H18FN3, 319.15; m/z found, 320.4 [M+H]+. 1H NMR (MeOH-d4): 7.70-7.67 (m, 2H), 7.36-7.35 (m, 2H), 7.31-7.25 (m, 4H), 7.20-7.17 (m, 1H), 4.42 (s, 2H), 4.26 (s, 2H), 3.48 (t, J=6.1, 2H), 3.09 (t, J=6.1, 2H). The compounds in Examples 77-81 were prepared using methods similar to those described in Example 76.

reactant | 2,7-dibenzyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride | Cl.C(C1=CC=CC=C1)C=1N=C(C2=C(N1)CN(CC2)CC2=CC=CC=C2)C2=CC=C(C=C2)F
reactant | 1,4-cyclohexadiene | 5 equiv | C1=CCC=CC1 | C6H8
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 1 equiv | [Pd] | Pd
product | 2-Benzyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride | Cl.C(C1=CC=CC=C1)C=1N=C(C2=C(N1)CNCC2)C2=CC=C(C=C2)F | InChI=1S/C20H18FN3.ClH/c21-16-8-6-15(7-9-16)20-17-10-11-22-13-18(17)23-19(24-20)12-14-4-2-1-3-5-14;/h1-9,22H,10-13H2;1H
